US07618978B2
2-(R)-(2-(R)-Acetylamino-1-(S)-hydroxy-3-phenyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-(2-(R)-amino-1-(S)-hydroxy-3-phenyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester (232 mg, 0.69 mmol) in 7 ml of dry CH2Cl2 and add N-acetyl-N-(2-trifluoromethyl-phenyl)-acetamide (Tetrahedron Letters, 38(21), 3751 (1997)) (162 mg, 0.66 mmol). Stir at room temperature overnight. Subject reaction mixture to silica gel chromatography, eluting ethyl acetate/triethylamine 98:2 to obtain 122 mg of the title compound (60% yield based on 79% conversion) and 50 mg of starting amine.

reactant | 2-(R)-(2-(R)-amino-1-(S)-hydroxy-3-phenyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.69 mmol, 232 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)N)O | C18H29N3O3
reactant | N-acetyl-N-(2-trifluoromethyl-phenyl)-acetamide | 0.66 mmol, 162 mg | C(C)(=O)N(C(C)=O)C1=C(C=CC=C1)C(F)(F)F | C11H10F3NO2
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | 2-(R)-(2-(R)-Acetylamino-1-(S)-hydroxy-3-phenyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 122 mg, 60% yield | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)NC(C)=O)O | C20H31N3O4
